US06573307B1
171 mL isopropyl benzene (Aldrich, 99%)
68.5 g ethylene glycol dimethacrylate (Aldrich, 98%, 100 ppm methyl ether of hydroquinone (MEHQ)

reactant | ethylene glycol dimethacrylate | 68.5 g | C(C(=C)C)(=O)OCCOC(C(=C)C)=O | C10H14O4
reactant | methyl ether | COC | C2H6O
reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
product | isopropyl benzene | C(C)(C)C1=CC=CC=C1 | C9H12
